US07943622B2
Step 2. Synthesis of 1-acetylpiperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 1-(1-acetylpiperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate (112.5 mg, 0.195 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 82.4 mg (97%) of the desired product as a white solid. LC-MS: RT=1.66 min, [M+H]+=363.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 1-(1-acetylpiperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | 0.195 mmol, 112.5 mg | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1CCN(CC1)C(C)=O | C23H34N4O6
solvent | MeOH | 1 mL | CO | CH4O
product | 1-acetylpiperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride | 82.4 mg, 97% | Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C(=O)OC1CCN(CC1)C(C)=O | InChI=1S/C18H26N4O4.2ClH/c1-14(23)21-8-4-16(5-9-21)26-18(24)22-10-7-20-11-15(22)13-25-17-3-2-6-19-12-17;;/h2-3,6,12,15-16,20H,4-5,7-11,13H2,1H3;2*1H
